US04556709
100 ml of toluene and 2.5 g of chloranil are added to 3.4 g of 2-pyrrolidino-4-methyl-8-cyclopropyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester. The mixture is warmed at 80°-90° C. for 30 minutes, the solvent is stripped off in vacuo and the residue is recrystallised from acetonitrile. The resulting 2.2 g of the ester with a melting point of 170°-175° C. are heated with 20 ml of ethanol and a solution of 1.2 g of potassium hydroxide in 60 ml of H2O for 2.5 hours at the boil under reflux. The alcohol is distilled off, the filtered solution is acidified with glacial acetic acid and the precipitate is filtered off, washed with water and dried. 1.6 g of 2-pyrrolidino-4-methyl-8-cyclopropyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid with a melting point of 253° C. are obtained. (Example 2 (in Table 1)).

reactant | chloranil | 2.5 g | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | 2-pyrrolidino-4-methyl-8-cyclopropyl-5-oxo-5,6,7,8-tetrahydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 3.4 g | C(C)OC(=O)C1C(C2=C(N=C(N=C2C)N2CCCC2)N(C1)C1CC1)=O | C18H24N4O3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 2-pyrrolidino-4-methyl-8-cyclopropyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid | 1.6 g | N1(CCCC1)C=1N=C(C2=C(N1)N(C=C(C2=O)C(=O)O)C2CC2)C | C16H18N4O3
